US07521447B2
Step A: 5-(2,4-Difluorophenoxy)-1-isobutyl-6-oxiranylmethoxy-1H-indazole:
To a solution of 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazol-6-ol (0.15 g, 0.47 mmol) in DMA (5 mL) was added Cs2CO3 (0.46 g, 1.41 mmol). After stirring the mixture for 3 hours, 2-bromomethyloxirane (0.13 g, 0.94 mmol) was added and the resulting mixture was stirred at room temperature for 16 hours. The mixture was diluted with ether and water and the layers were separated. The aqueous layer was extracted with ether (3×) and the combined organic layers were washed with water and brine, and dried over Na2SO4. The crude product was concentrated under reduced pressure and used in the next reaction without further purification (0.135 g, 77% yield).

reactant | 5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazol-6-ol | 0.47 mmol, 0.15 g | FC1=C(OC=2C=C3C=NN(C3=CC2O)CC(C)C)C=CC(=C1)F | C17H16F2N2O2
reactant | Cs2CO3 | 1.41 mmol, 0.46 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-bromomethyloxirane | 0.94 mmol, 0.13 g | BrCC1OC1 | C3H5BrO
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 5-(2,4-Difluorophenoxy)-1-isobutyl-6-oxiranylmethoxy-1H-indazole | 77% yield | FC1=C(OC=2C=C3C=NN(C3=CC2OCC2OC2)CC(C)C)C=CC(=C1)F | C20H20F2N2O3
